US04612185
Preparation of 2-(trifluoromethyl)benzamidoacetic acid
In a 500 ml, 3-necked flask was dissolved glycine (9.03 g) in water (50 ml). The flask was cooled in an ice/methanol bath. Sodium hydroxide (12.6 g) in 30 cc of water was added. 2-Trifluoromethylbenzoyl chloride (25 g) was added at a temperature below 0° C. The bath was removed and the reaction mixture stirred for 2.5 hours at room temperature. To this was added concentrated HCl until the pH was 1. The solid was collected by filtration, washed with water and dried to give 25 g(84%), m.p. 147°-149° C. The product was a single spot by thin layer chromatography. (n-butyl alcohol:isopropyl alcohol:NH4OH; 10:4:4).

reactant | Sodium hydroxide | 12.6 g | [OH-].[Na+]
reactant | 2-Trifluoromethylbenzoyl chloride | 25 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | n-butyl alcohol | C(CCC)O | C4H10O
reactant | NH4OH | [NH4+].[OH-]
solvent | glycine | 9.03 g | NCC(=O)O | C2H5NO2
solvent | water | 50 ml | O | H2O
solvent | water | 30 cc | O | H2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(trifluoromethyl)benzamidoacetic acid | FC(C1=C(C(=O)NCC(=O)O)C=CC=C1)(F)F | C10H8F3NO3
